US07402592B2
6-Methyl-4-(3-pyridinyl)-6-azabicyclo[3.2.1]oct-3-ene dihydrochloride
To a suspension of 4-(3-pyridinyl)-6-azabicyclo[3.2.1]oct-3-ene dihydrochloride (90 mg, 0.35 mmol) in 15 mL of dichloromethane was added a solution of formaldehyde (37% aqueous, 0.15 mL, ˜1.8 mmol). With vigorous stirring, solid sodium triacetoxyborohydride (300 mg, 1.4 mmol) was added in two portions. The reaction was allowed to stir overnight at ambient temperature. The reaction mixture was quenched by the addition of a sodium hydroxide solution (10% aqueous, approximately 1 mL), and the whole extracted with dichloromethane (2×10 mL). The organic extracts were washed successively with water and brine (10 mL each), and dried over sodium sulfate. Filtration and removal of solvent in vacuo gave a residue, which was dissolved in a small volume of methanol and treated with approximately 1 mL of 4M HCl in dioxane. The resulting solution was concentrated in vacua, and the residue taken up in a minimum amount of warm isopropanol. After cooling briefly, ether was added to the point of cloudiness, and the solution cooled slowly to ambient temperature. A sticky solid precipitate formed which resisted crystallization. Solvents were removed in vacuo, leaving the product as a hygroscopic, gummy mass (30 mg, 32%).

reactant | 4-(3-pyridinyl)-6-azabicyclo[3.2.1]oct-3-ene dihydrochloride | 0.35 mmol, 90 mg | Cl.Cl.N1=CC(=CC=C1)C1=CCC2CNC1C2
reactant | formaldehyde | ˜1.8 mmol, 0.15 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.4 mmol, 300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 4M, approximately 1 mL | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Methyl-4-(3-pyridinyl)-6-azabicyclo[3.2.1]oct-3-ene dihydrochloride | Cl.Cl.CN1C2C(=CCC(C1)C2)C=2C=NC=CC2 | InChI=1S/C13H16N2.2ClH/c1-15-9-10-4-5-12(13(15)7-10)11-3-2-6-14-8-11;;/h2-3,5-6,8,10,13H,4,7,9H2,1H3;2*1H
